US06884810B2
2-[4-(4,4,4-Trifluorobutoxy)pyridin-2-yl-methylthio]-1H-benzimidazole (6.0 g) was dissolved in ethyl acetate (150 mL). Molecular Sieve 4A (6.0 g) and water (290 μL) were added, and the mixture was stirred for 15 minutes at room temperature. Subsequently, diethyl (+)-tartrate (6.7 g) and tetraisopropyl titanate (4.6 g) were added, and the mixture was stirred for one hour at 50° C. The temperature of the mixture was returned to room temperature. N,N-Diisopropylethylamine (2.8 mL) and 88% cumene hydroxyperoxide (2.7 mL) were added, and the mixture was stirred for four hours at room temperature. A saturated sodium bicarbonate solution was added to the reaction mixture, and the mixture was stirred for 30 minutes, followed by filtration through the Celite. The filtrate was extracted with ethyl acetate. The organic layer was washed sequentially with water and brine, and brought to dryness over sodium sulfate anhydrate. The solvent was removed under reduced pressure. The residue was subjected to silica gel column chromatography (silica gel: NH-DM1020 (product of Fuji Silicia), chloroform:methanol=10:1), whereby (−)-2-[4-(4,4,4-trifluorobutoxy) pyridin-2-yl-methanesulfinyl]-1H-benzimidazole was obtained (4.5 g).

reactant | 2-[4-(4,4,4-Trifluorobutoxy)pyridin-2-yl-methylthio]-1H-benzimidazole | 6.0 g | FC(CCCOC1=CC(=NC=C1)CSC1=NC2=C(N1)C=CC=C2)(F)F | C17H16F3N3OS
reactant | diethyl (+)-tartrate | 6.7 g | C(=O)(OCC)C(O)C(O)C(=O)OCC | C8H14O6
reactant | N,N-Diisopropylethylamine | 2.8 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | cumene hydroxyperoxide | 2.7 mL | OOOO.C1(=CC=CC=C1)C(C)C
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
catalyst | tetraisopropyl titanate | 4.6 g | CC(C)[O-].CC(C)[O-].CC(C)[O-].CC(C)[O-].[Ti+4]
solvent | water | 290 μL | O | H2O
product | (−)-2-[4-(4,4,4-trifluorobutoxy) pyridin-2-yl-methanesulfinyl]-1H-benzimidazole | FC(CCCOC1=CC(=NC=C1)CS(=O)C1=NC2=C(N1)C=CC=C2)(F)F | C17H16F3N3O2S
